US07253286B2
N-[2,3-Dimethyl-4-(6-cyano-7-hydroxyquinolin-4-yloxy)phenyl]-N′-cyclopropylurea
After adding N-[4-(7-benzyloxy-6-cyanoquinolin-4-yloxy)-2,3-dimethyl phenyl]-N′-cyclopropylurea (1600 mg) to tetrahydrofuran (400 ml), palladium-carbon (2000 mg) was further added and the mixture was stirred overnight at room temperature under a hydrogen atmosphere. The palladium-carbon was removed by filtration, washing was performed with dimethylformamide, and the filtrate was concentrated under reduced pressure to obtain the title compound (827 mg).

reactant | N-[4-(7-benzyloxy-6-cyanoquinolin-4-yloxy)-2,3-dimethyl phenyl]-N′-cyclopropylurea | 1600 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C)C#N | C29H26N4O3
catalyst | palladium-carbon | 2000 mg | [C].[Pd]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-[2,3-Dimethyl-4-(6-cyano-7-hydroxyquinolin-4-yloxy)phenyl]-N′-cyclopropylurea | 827 mg | CC1=C(C=CC(=C1C)OC1=CC=NC2=CC(=C(C=C12)C#N)O)NC(=O)NC1CC1 | C22H20N4O3
